US07470664B2
(2S)-4,4,4-trifluoro-2-{[(hex-5-en-1-yloxy)carbonyl]amino}butanoic acid was prepared according to the procedure for 3-methyl-N-[(pent-4-enyloxy)carbonyl]-L-valine using (2S)-2-amino-4,4,4-trifluorobutanoic acid and 5-hexenol. LRMS (ESI) m/z 284.3 [(M+H)+; calcd for C11H17F3NO4: 284.1].

reactant | 3-methyl-N-[(pent-4-enyloxy)carbonyl]-L-valine | CC([C@H](NC(=O)OCCCC=C)C(=O)O)(C)C | C12H21NO4
reactant | (2S)-2-amino-4,4,4-trifluorobutanoic acid | N[C@H](C(=O)O)CC(F)(F)F | C4H6F3NO2
reactant | 5-hexenol | C(CCCC=C)O | C6H12O
product | (2S)-4,4,4-trifluoro-2-{[(hex-5-en-1-yloxy)carbonyl]amino}butanoic acid | FC(C[C@@H](C(=O)O)NC(=O)OCCCCC=C)(F)F | C11H16F3NO4
